US04994479
In 30 ml of tetrahydrofuran and 130 ml of ethanol was dissolved 3.32 g of ethyl 3-hydroxy-4-nitrocinnamate. To the solution was added 100 mg of 10% palladium-carbon. The mixture was stirred under normal pressure in a hydrogen flow until absorption of hydrogen was discontinued. The catalyst was filtered off by suction and the filtrate was concentrated under reduced pressure to obtain 3.10 g of crude ethyl 4-amino-3-hydroxybenzenepropionate as an oily substance.

reactant | ethyl 3-hydroxy-4-nitrocinnamate | 3.32 g | OC=1C=C(C=CC(=O)OCC)C=CC1[N+](=O)[O-] | C11H11NO5
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | ethanol | 130 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 100 mg | [C].[Pd]
product | ethyl 4-amino-3-hydroxybenzenepropionate | 3.10 g | NC1=C(C=C(C=C1)CCC(=O)OCC)O | C11H15NO3
